US04276296
1,2,3,4-Tetrahydro-8,9-dimethoxy-3-acetonyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one
A solution of 26.1 g (0.1 m) of 1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridine-5-one, prepared in Example 1, 13 g (0.14 m) of chloroacetone, and 14.2 g (0.14 m) of triethylamine in 450 ml of ethanol was refluxed overnight. After evaporation, the residue was partitioned between dilute NaOH solution and CHCl3. After drying (Na2SO4) and evaporation of the CHCl3 extract, the residue was triturated with pet ether and 27.2 g of product filtered off. Crystallization from methanol afforded analytical material, mp 168°-72° C.

reactant | 1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridine-5-one | 26.1 g | COC1=CC2=C(C=C1OC)C1=C(CNCC1)C(O2)=O | C14H15NO4
reactant | chloroacetone | 13 g | ClCC(C)=O | C3H5ClO
reactant | triethylamine | 14.2 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 1,2,3,4-Tetrahydro-8,9-dimethoxy-3-acetonyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | COC1=CC2=C(C=C1OC)C1=C(CN(CC1)CC(=O)C)C(O2)=O | C17H19NO5
